US08486970B2
A mixture of 5.05 g of 5-methyl-2-furanecarboxylic acid, 7.14 g of CDI, and 40 mL of DMF was stirred at 50° C. for 2 hours. To the reaction solution were added 6.71 g of DBU and 6.53 g of 2-methyl-2-propanol at room temperature, followed by stirring at 50° C. for 48 hours. The reaction solution was concentrated under reduced pressure, and the obtained residue was diluted with diethyl ether and washed with a 5% aqueous ammonium chloride solution, a saturated aqueous sodium hydrogen carbonate solution, and then a saturated aqueous sodium chloride solution in this order. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate) to obtain 2.82 g of tert-butyl 5-methyl-2-furanecarboxylate as a yellow oily substance.

reactant | 5-methyl-2-furanecarboxylic acid | 5.05 g | CC1=CC=C(O1)C(=O)O | C6H6O3
reactant | CDI | 7.14 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
reactant | DBU | 6.71 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | 2-methyl-2-propanol | 6.53 g | CC(C)(C)O | C4H10O
product | tert-butyl 5-methyl-2-furanecarboxylate | 2.82 g | CC1=CC=C(O1)C(=O)OC(C)(C)C | C10H14O3
